US06455548B2
Preparation of 4-(Butyloxy)piperidine
To a solution of 10 g (50 mmol) of 1-t-butoxycarbonyl-4-piperidone (Aldrich) in 10 mL of THF at −78° C. was added 75 mL (75 mmol) of a 1 M solution of diisobutylaluminum hydride in toluene. The reaction mixture was allowed to warm to −20° C. and stirred for 3 h. After this time it was poured into 500 mL of sat'd solution of potassium sodium tartrate tetrahydrate (Rochelle salt), the mixture was stirred vigorously for 20 min, and the layers were separated. The aqueous layer was washed with ethyl acetate and the combined organic fractions were washed with brine, dried over MgSO4, filtered, and the filtrate was concentrated to give the title compound which was used without further purification.

reactant | 1-t-butoxycarbonyl-4-piperidone | 50 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(Butyloxy)piperidine | C(CCC)OC1CCNCC1 | C9H19NO
